US07700641B2
D. Synthesis of 2-{2-[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]ethyl}-1H-isoindole-1,3(2H)-dione
Following the procedure as described in PREPARATION 1E, making variation to replace 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one with 2-{2-[3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]ethyl}-1H-isoindole-1,3(2H)-dione, the title compound was obtained (56%): 1H NMR (300 MHz, CD3OD) δ 9.97 (s, 1H), 8.72-8.62 (m, 4H), 8.07-7.67 (m, 5H), 7.01 (s, 1H), 6.71 (s, 1H), 6.70 (s, 1H), 5.79 (t, 1H), 4.88-4.50 (m, 6H); MS (ES+) m/z 455 (M−17), 473 (M+1), 495 (M+23).

reactant | 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)C1=CC2=C(OCO2)C=C1O | C20H20BrNO4
reactant | 2-{2-[3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]ethyl}-1H-isoindole-1,3(2H)-dione | OC=1C(=CC2=C(OCO2)C1)C1C(N(C2=CC=CC=C12)CCN1C(C2=CC=CC=C2C1=O)=O)=O | C25H18N2O6
product | 2-{2-[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]ethyl}-1H-isoindole-1,3(2H)-dione | OC=1C(=CC2=C(OCO2)C1)C1(C(N(C2=CC=CC=C12)CCN1C(C2=CC=CC=C2C1=O)=O)=O)CO | C26H20N2O7
